US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.42 g) and (4-isopropylphenyl)[(6-phenoxypyridin-3-yl)methyl]amine (0.47 g) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.42 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.42 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | (4-isopropylphenyl)[(6-phenoxypyridin-3-yl)methyl]amine | 0.47 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=NC(=CC1)OC1=CC=CC=C1 | C21H22N2O
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.42 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NC(=CC1)OC1=CC=CC=C1)C1=CC=C(C=C1)C(C)C | C39H38N2O3
